US06147111
4,4-Dimethyl-2-(2-[2,4-dimethoxyphenyl]phenyl)-2-oxazoline.
A suspension of magnesium powder (409 mg, 16.8 mmol) in THF (10 ml) containing a few crystals of iodine was heated whilst a solution of 1-bromo-2,4-dimethoxybenzene (3.65 g, 16.8 mmol) in THF (20 ml) was added dropwise over 20 minutes. After completion of the addition, the mixture was refluxed for 1.25 hours and then allowed to cool to room temperature. The Grignard solution was transferred via syringe to a solution of 2-(2-methoxyphenyl)-4,4-dimethyl-2-oxazoline (J. Org. Chem., 1978, 43, 1372, 2.50 g, 12.9 mmol) in THF (10 ml) at room temperature and the mixture was stirred at room temperature for 42 hours. Saturated ammonium chloride solution was added and the product was extracted into diethyl ether. The extracts were dried (K2CO3) and concentrated. Purification by column chromatography on silica gel (elution with 40-60% ethyl acetate in iso-hexane) gave the title compound as a viscous oil. Yield 4.029 g (84%).

reactant | magnesium | 16.8 mmol, 409 mg | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-bromo-2,4-dimethoxybenzene | 16.8 mmol, 3.65 g | BrC1=C(C=C(C=C1)OC)OC | C8H9BrO2
reactant | 2-(2-methoxyphenyl)-4,4-dimethyl-2-oxazoline | 12.9 mmol, 2.50 g | COC1=C(C=CC=C1)C=1OCC(N1)(C)C | C12H15NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4,4-Dimethyl-2-(2-[2,4-dimethoxyphenyl]phenyl)-2-oxazoline | CC1(N=C(OC1)C1=C(C=CC=C1)C1=C(C=C(C=C1)OC)OC)C | C19H21NO3
